US06670373B1
4-Carboxy-5-methyl-3-(2-iodo-6-fluoro-phenyl)isoxazole
To a solution of 4-ethoxycarbonyl-5-methyl-3-(2-iodo-6-fluoro-phenyl)isoxazole (7.15 g, 19 mmol) in EtOH (100 ml) was added 5N NaOH (7.6 ml, 38 mmol, 2 eq.), and stirred in a 50° C. oil bath for 4 hrs. The reaction was cooled to room temperature, poured into ice H2O and extracted with Et2O. The aqueous layer was then acidified to pH 3 using conc. HCl and extracted with ethyl acetate. The organic solution was washed with brine, dried (MgSO4), filtered, and concentrated to give the title compound (6.08 g, 92%).

reactant | 4-ethoxycarbonyl-5-methyl-3-(2-iodo-6-fluoro-phenyl)isoxazole | 19 mmol, 7.15 g | C(C)OC(=O)C=1C(=NOC1C)C1=C(C=CC=C1F)I | C13H11FINO3
reactant | NaOH | 38 mmol, 5N, 7.6 ml, 2 eq. | [OH-].[Na+]
solvent | EtOH | 100 ml | CCO | C2H6O
product | 4-Carboxy-5-methyl-3-(2-iodo-6-fluoro-phenyl)isoxazole | 6.08 g, 92% | C(=O)(O)C=1C(=NOC1C)C1=C(C=CC=C1F)I | C11H7FINO3
